US04808723
Preparation of 2-amino-5-nitrobenzothiazole
A solution of 8.63 g of 2-chloro-5-nitroaniline and 9.9 g of sodium sulphide trihydrate in 80 ml of butyl glycol was stirred at 80° C. for 30 minutes. After adding 4.16 ml of concentrated sulphuric acid, 7.6 g of thiourea were added to the 2-amino-4-nitrothiophenol, and the mixture was stirred at 120° C. for 3 hours. The reaction mixture was discharged into 400 ml of water and 50 ml of methanol, and the solid was filtered off with suction and washed with water. 5.4 g of crude 2-amino-5-nitrobenzothiazole, the identity of which was confirmed by TLC comparison with authentic material, were obtained.

reactant | 2-chloro-5-nitroaniline | 8.63 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium sulphide trihydrate | 9.9 g | O.O.O.[S-2].[Na+].[Na+]
reactant | sulphuric acid | 4.16 ml | S(O)(O)(=O)=O | H2O4S
reactant | thiourea | 7.6 g | NC(=S)N | CH4N2S
reactant | 2-amino-4-nitrothiophenol | NC1=C(C=CC(=C1)[N+](=O)[O-])S | C6H6N2O2S
solvent | butyl glycol | 80 ml | CCCCOCCO | C6H14O2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
product | 2-amino-5-nitrobenzothiazole | NC=1SC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C7H5N3O2S
